US06369222B1
6-(2-Amino-4,5,7,8-tetrahydro-thiazolo[4,5-d]azepin-6-yl)-2-methyl-5-nitro-3H-pyrimidin-4-one
In analogy to the procedure described in example 1c 6-bromo-2-methyl-5-nitro-3H-pyrimidin-4-one as prepared in example 1a was treated with 2-amino-5,6,7,8-tetrahydro-4H-thiazolo[4,5-d]azepine [Ger. Offen. (1989), DE 3820775] in N,N-dimethylformamide in the presence of potassium carbonate at 110° C. to yield the title compound as yellow solid; m.p. >200° C.; MS: [M+H]+=323.

reactant | 6-bromo-2-methyl-5-nitro-3H-pyrimidin-4-one | BrC1=C(C(NC(=N1)C)=O)[N+](=O)[O-] | C5H4BrN3O3
reactant | 2-amino-5,6,7,8-tetrahydro-4H-thiazolo[4,5-d]azepine | NC=1SC2=C(CCNCC2)N1 | C7H11N3S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 6-(2-Amino-4,5,7,8-tetrahydro-thiazolo[4,5-d]azepin-6-yl)-2-methyl-5-nitro-3H-pyrimidin-4-one | NC=1SC2=C(CCN(CC2)C2=C(C(NC(=N2)C)=O)[N+](=O)[O-])N1 | C12H14N6O3S
